US07569650B2
Preparation of a Latex Particle with Urethane Acrylate Shell
In a round-bottom flask, 76 g of styrene, 276 g of hexyl methacrylate, 24 g of methacrylic acid, 4 g of ethylene glycol dimethacrylate, 1.6 g of isooctylthio glycolate as a chain transfer agent, and 33.28 g of 30% Rhodafac RS 710 as an emulsifying agent are mixed in 136 ml of water forming an emulsion. An initiator solution is prepared by adding 1.39 g of potassium persulfate to 160 ml of water. A hot water solution is prepared by adding 32 ml of the initiator solution to 1160 ml of water preheated to 90° C. Simultaneous addition of the remaining initiator solution with the emulsion is added to the hot water solution over a period of 32 minutes to form a reaction mixture. After about 60% of the emulsion addition, another component, aliphatic urethane acrylate CN968 from Sartomer, is added to the reaction mixture for the incorporation of urethane linkages on the surface of the latex particle. The reaction mixture is maintained at 90° C. for 1.75 hours and then cooled to ambient temperature. The reaction mixture is then neutralized with 50% potassium hydroxide solution and filtered using 200 μm filter to obtain a latex with a rigid polymer shell containing urethane linkages.

reactant | styrene | 76 g | C=CC1=CC=CC=C1 | C8H8
reactant | hexyl methacrylate | 276 g | C(C(=C)C)(=O)OCCCCCC | C10H18O2
reactant | methacrylic acid | 24 g | C(C(=C)C)(=O)O | C4H6O2
reactant | ethylene glycol dimethacrylate | 4 g | C(C(=C)C)(=O)OCCOC(C(=C)C)=O | C10H14O4
reactant | isooctylthio glycolate | 1.6 g | C(CO)(=O)OSCCCCCC(C)C | C10H20O3S
reactant | potassium persulfate | 1.39 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | urethane | NC(=O)OCC | C3H7NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | 136 ml | O | H2O
solvent | water | 1160 ml | O | H2O
solvent | water | 160 ml | O | H2O
product | Urethane Acrylate | C(C=C)(=O)O.NC(=O)OCC | InChI=1S/C3H7NO2.C3H4O2/c1-2-6-3(4)5;1-2-3(4)5/h2H2,1H3,(H2,4,5);2H,1H2,(H,4,5)
